US04898874
6-Methyl-3-phenyl-2,1-benzisoxazole
A solution of 31.6 g (0.15 mole) of 4-methyl-2-aminobenzophenone in 350 ml of glacial acetic acid and 175 ml of 30% hydrogen peroxide was let stand at ambient temperature for 72 hr. The solution was poured into 3 liters of water and a solid gradually crystallized. The solid was collected by filtration, washed with water and recrystallized from 2-propanol. The precipitate was slurried in 200 ml of carbon tetrachloride and filtered. The filtrate was concentrated to yield 10.5 g (35%) of title compound, m.p. 77.78° C. after recrystallization from 2-propanol.

reactant | 4-methyl-2-aminobenzophenone | 0.15 mole, 31.6 g | CC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)N | C14H13NO
reactant | water | 3 liters | O | H2O
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen peroxide | 175 ml | OO | H2O2
product | 6-Methyl-3-phenyl-2,1-benzisoxazole | 10.5 g, 35% | CC1=CC=2C(=C(ON2)C2=CC=CC=C2)C=C1 | C14H11NO
